US07037932B2
b) N-(7-Fluoro-4-methoxy-1-benzothien-2-yl)-N,N-dimethylamine
A solution of 2-(5-fluoro-2-methoxyphenyl)-2-hydroxy-N,N-dimethylethanethioamide (0.5 g, 2.1 mmol) in Eaton's reagent (5 mL) were combined and heated rapidly to 60° C. and left for 1 h. After cooling to room temperature over 2 hours the mixture was dropwise addition into prechilled aqueous sodium hydroxide (2 N, 16.25 mL) with constant stirring. This solution was then extracted with methyl tert-butyl ether (5×20 mL) and the combined organic extracts were dried (MgSO4) and the solvent removed in vacuo to give a yellow solid. This was purified by flash chromatography with a gradient of 0–2% diethyl ether in hexane and gave 0.2 g of yellow solid containing an impurity, this was triturated with hexane to leave a colourless solid (0.155 g, 34%) of the title compound; δH (300 MHz, CDCl3) 6.70–6.52 (2H, m, ArH), 6.12–6.10 (1H, m, ArH) 3.90 (3H, s, OCH3) and 3.2 (6H, s, N(CH3)2), M+H=226.1.

reactant | 2-(5-fluoro-2-methoxyphenyl)-2-hydroxy-N,N-dimethylethanethioamide | 2.1 mmol, 0.5 g | FC=1C=CC(=C(C1)C(C(N(C)C)=S)O)OC | C11H14FNO2S
reactant | sodium hydroxide | 2 N, 16.25 mL | [OH-].[Na+]
solvent | Eaton's reagent | 5 mL | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
product | N-(7-Fluoro-4-methoxy-1-benzothien-2-yl)-N,N-dimethylamine | 0.2 g | FC1=CC=C(C=2C=C(SC21)N(C)C)OC | C11H12FNOS
